US07560558B2
2-Chloro-N-(2-formyl-phenyl)-acetamide (960 mg) was dissolved in a mixed solvent composed of water (60 ml) and methanol (24 ml) at 100° C. A 10% aqueous potassium hydroxide solution (12 ml) was added dropwise to the solution and was then heated under reflux for one hr. The reaction solution was cooled to room temperature, methanol was then removed under the reduced pressure, and the residue was neutralized with a 1 N aqueous hydrochloric acid solution. The precipitate was collected by filtration, was washed with ethyl acetate, and was dried under the reduced pressure to give 2,3-dihydroxyquinoline (450 mg, yield 26%).

reactant | 2-Chloro-N-(2-formyl-phenyl)-acetamide | 960 mg | ClCC(=O)NC1=C(C=CC=C1)C=O | C9H8ClNO2
reactant | water | 60 ml | O | H2O
reactant | potassium hydroxide | 12 ml | [OH-].[K+]
solvent | methanol | 24 ml | CO | CH4O
product | 2,3-dihydroxyquinoline | 450 mg, yield 26% | OC1=NC2=CC=CC=C2C=C1O | C9H7NO2
